US08486940B2
3-(1H-benzo[d]imidazol-5-yl)-4-(4-(cyclohexyloxy)phenyl)oxazolidin-2-one
The compound was synthesized according to Method 6 starting from 4-(cyclohexyloxy)benzaldehyde (4 g, 19.60 mmol), potassium cyanide (1.60 g, 24.50 mmol), ammonium carbonate (5.64 g, 58.8 mmol), 10% aqueous sodium hydroxide (80 mL), 10% aqueous sodium hydroxide solution (120 mL), di tert-butyl dicarbonate (14.47 g, 66 mmol), potassium carbonate (1.78 g, 129.94 mmol), methyl iodide (1.46 g, 10.31 mmol), sodium borohydride (1.13 g, 29.76 mmol), thionyl chloride (20 mL, 273.9 mmol), 4-bromo-1,2-diamino benzene (561 mg, 3.0 mmol), cesium fluoride (912 mg, 6.0 mmol), copper iodide (85 mg, 0.45 mmol), formic acid (5 mL). Yield: 120 mg (1.6%), MS m/z 378.4 (M+H)+; 1H-NMR (400 MHz, CDCl3): δ 7.91 (s, 1H); 7.62 (s, 1H); 7.48 (d, 1H); 7.19 (d, 3H); 6.81 (d, 2H); 5.33 (t, 2H); 4.79 (t, 1H); 4.17 (t, 1H); 4.14 (s, 1H); 1.9 (t, 2H); 1.75 (d, 2H); 1.56-1.25 (m, 6H); HPLC (λ=214 nm, [A]: rt 14.40 min (100%).

reactant | 4-(cyclohexyloxy)benzaldehyde | 19.60 mmol, 4 g | C1(CCCCC1)OC1=CC=C(C=O)C=C1 | C13H16O2
reactant | potassium cyanide | 24.50 mmol, 1.60 g | [C-]#N.[K+]
reactant | ammonium carbonate | 58.8 mmol, 5.64 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium hydroxide | 80 mL | [OH-].[Na+]
reactant | sodium hydroxide | 120 mL | [OH-].[Na+]
reactant | di tert-butyl dicarbonate | 66 mmol, 14.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 129.94 mmol, 1.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 10.31 mmol, 1.46 g | CI | CH3I
reactant | sodium borohydride | 29.76 mmol, 1.13 g | [BH4-].[Na+]
reactant | thionyl chloride | 273.9 mmol, 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-1,2-diamino benzene | 3.0 mmol, 561 mg | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
reactant | cesium fluoride | 6.0 mmol, 912 mg | [F-].[Cs+]
catalyst | copper iodide | 0.45 mmol, 85 mg | [Cu](I)I
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 3-(1H-benzo[d]imidazol-5-yl)-4-(4-(cyclohexyloxy)phenyl)oxazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(OCC2C2=CC=C(C=C2)OC2CCCCC2)=O | C22H23N3O3
